US05214202
Methyl 4-[(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl) carbamoyl]benzoate
First, 125 g (0.51 mole) of 1,2,3,4-tetrahydro-1,1,4,4-tetramethyl-6-acetaminonaphthalene was dissolved in 625 ml of CH2Cl2. To this solution, 206 ml of dimethylaniline and 116.6 g (0.51×1.1 mole) of phosphorus pentachloride were added in this order at -25° C. under a nitrogen atmosphere, and the mixture was stirred at the same temperature for 1.5 hours. To this reaction mixture was added dropwise 2.06 l of methanol, after which the cooling bath was removed and the stirring of the mixture was continued for 2 hours (at -25° C. to room temperature). Furthermore, this reaction mixture was cooled to -25° C., and 306 ml of dimethylaniline and 101.1 g (1.01×0.51 mole) of terephthalic chloride were added thereto in this order. The mixture was stirred at -20° C. to -30° C. for 1 hour. After the reaction was completed, the reaction mixture was poured into 2.6 l of chilled 1N hydrochloric acid, and the mixture was extracted with 1.3 l of CH2Cl2. The CH2Cl2 layer was washed with 2.6 l of 1N hydrochloric acid, 4 l of water, 5% aqueous solution of sodium bicarbonate and 4 l of water in this order. After drying over MgSO4, the solution was evaporated to dryness. To this residue was added 740 ml methanol, and the mixture was allowed to stand overnight, resulting in 151 g (81%) of the above-described compound.

reactant | 1,2,3,4-tetrahydro-1,1,4,4-tetramethyl-6-acetaminonaphthalene | 0.51 mole, 125 g | CC1(CCC(C2=CC(=CC=C12)NC(=O)C)(C)C)C | C16H23NO
reactant | dimethylaniline | 206 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | phosphorus pentachloride | 1.1 mole, 116.6 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | dimethylaniline | 306 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | terephthalic chloride | 0.51 mole, 101.1 g | C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | C8H4Cl2O2
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | methanol | 2.06 l | CO | CH4O
solvent | CH2Cl2 | 625 ml | C(Cl)Cl | CH2Cl2
product | Methyl 4-[(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl) carbamoyl]benzoate | 151 g, 81% | CC1(C=2C=CC(=CC2C(CC1)(C)C)NC(=O)C1=CC=C(C(=O)OC)C=C1)C | C23H27NO3
